US04743602
Phosphorus oxychloride (26.75 g, 0.174 mol) was added dropwise to dimethylformamide (12.92 g, 0.177 mol). This mixture was cooled to 10° C. for 1/2 hour, then 2-t-butylfuran (18.45 g, 0.149 mol) was added dropwise and the mixture stirred at room temperature for 3 hours. The mixture was poured into ice/water, neutralised with sodium carbonate and extracted into diethyl ether. The ethereal extracts were washed with water, dried over anhydrous sodium sulphate and the solvent removed to give a brown oil. Purification by column chromatography (silica eluted with petroleum ether/ethyl acetate 9:1) gave 5-t-butyl-2-furancarboxaldehyde (22.46 g, 99%).

reactant | Phosphorus oxychloride | 0.174 mol, 26.75 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 0.177 mol, 12.92 g | CN(C=O)C | C3H7NO
reactant | 2-t-butylfuran | 0.149 mol, 18.45 g | C(C)(C)(C)C=1OC=CC1 | C8H12O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 5-t-butyl-2-furancarboxaldehyde | 22.46 g, 99% | C(C)(C)(C)C1=CC=C(O1)C=O | C9H12O2
